US05344992
1 -Phenyloctadecane-1,3-Dione
An apparatus as described in Example 1 is charged with 31.7 g of sodium-tert-butylate, 150 g of DMSO and 150 g of tetrahydrofuran (THF) and the mixture is cooled to 0° C. Then a mixture of 89 g of methyl palmitate and 36 g of acetophenone is added dropwise over 45 minutes. The reaction mixture is then stirred for ca. 45-60 minutes at 30° C., the solvent is removed by distillation on a rotary evaporator (bath temperature <60° C.), and the residue is taken up in 1000 ml of water. The aqueous solution is acidified with dilute hydrochloric acid and the precipitate is isolated by filtration, washed with water, and dried.

reactant | DMSO | 150 g | CS(=O)C | C2H6OS
reactant | methyl palmitate | 89 g | C(CCCCCCCCCCCCCCC)(=O)OC | C17H34O2
reactant | acetophenone | 36 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | tetrahydrofuran | 150 g | O1CCCC1 | C4H8O
product | 1 -Phenyloctadecane-1,3-Dione | C1(=CC=CC=C1)C(CC(CCCCCCCCCCCCCCC)=O)=O | C24H38O2
